US04567201
A mixture of ethyl 4-[3-(4-acetyl-3-hydroxy-2-n-propylphenoxy)propoxy]-3-chlorobenzoate (1.0 g), ethanol (10 ml) and 1N sodium hydroxide (10 ml) was refluxed for 0.5 hour, then concentrated, acidified with 1N hydrochloric acid, and extracted with ethyl acetate. The extract was washed with water, dried over sodium sulfate and concentrated, and the crystals were collected by filtration. There was obtained 4-[3-(4-acetyl-3-hydroxy-2-n-propylphenoxy)propoxy]-3-chlorobenzoic acid as needles (840 mg). Melting point 171°-172° C.

reactant | ethyl 4-[3-(4-acetyl-3-hydroxy-2-n-propylphenoxy)propoxy]-3-chlorobenzoate | 1.0 g | C(C)(=O)C1=C(C(=C(OCCCOC2=C(C=C(C(=O)OCC)C=C2)Cl)C=C1)CCC)O | C23H27ClO6
reactant | sodium hydroxide | 1N, 10 ml | [OH-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 4-[3-(4-acetyl-3-hydroxy-2-n-propylphenoxy)propoxy]-3-chlorobenzoic acid | 840 mg | C(C)(=O)C1=C(C(=C(OCCCOC2=C(C=C(C(=O)O)C=C2)Cl)C=C1)CCC)O | C21H23ClO6
